US09163021B2
N-{5-[7-Fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-2-(4-trifluoromethyl-phenyl)-acetamide
To a solution of N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(4-trifluoromethyl-phenyl)-acetamide (Preparation 1, 45 mg, 49 μmol) in THF (5 mL) 4M dioxane-HCl (0.5 mL) was added and stirred at room temperature for 2 hours. The reaction was evaporated in vacuo and triturated with pentane-ether to afford the title compound as a yellow solid in 83% yield, 30 mg.

reactant | N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(4-trifluoromethyl-phenyl)-acetamide | 49 μmol, 45 mg | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)C(=O)C=2C=C(C=NC2)NC(CC2=CC=C(C=C2)C(F)(F)F)=O)(C)C | C32H36F4N4O3Si
solvent | THF | 4M, 5 mL | C1CCOC1 | C4H8O
product | N-{5-[7-Fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-2-(4-trifluoromethyl-phenyl)-acetamide | 83% yield | FC=1C2=C(C=NC1)C(=CN2C(CO)(C)C)C(=O)C=2C=C(C=NC2)NC(CC2=CC=C(C=C2)C(F)(F)F)=O | C26H22F4N4O3
